US08791123B2
Step A: Preparation of 5-hydroxypyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a mixture of 5-amino-1H-pyrazole-4-carbonitrile (2.70 g, 25.0 mmol) and Cs2CO3 (16.3 g, 50.0 mmol) in dry DMF (70 mL) was added ethyl 3-ethoxyacrylate (5.41 g, 37.5 mmol) and the mixture was heated at 100° C. for 4 hours. The mixture was cooled to ambient temperature and the resultant slurry was poured into deionized H2O (150 mL). The resulting aqueous solution was cooled on an ice bath and concentrated HCl was added slowly with mixing to pH=3.5. The resulting precipitate was collected, washed with H2O followed by Et2O. The solid was dried in vacuum to afford the product as a light beige powder (3.87 g, 97%). MS (apci) m/z=159.0 (M−1).

reactant | 5-amino-1H-pyrazole-4-carbonitrile | 25.0 mmol, 2.70 g | NC1=C(C=NN1)C#N | C4H4N4
reactant | Cs2CO3 | 50.0 mmol, 16.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 3-ethoxyacrylate | 37.5 mmol, 5.41 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | HCl | Cl | ClH
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | H2O | 150 mL | O | H2O
product | 5-hydroxypyrazolo[1,5-a]pyrimidine-3-carbonitrile | 3.87 g, 97% | OC1=NC=2N(C=C1)N=CC2C#N | C7H4N4O
